US04385058
Reaction of N-[2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethyl]guanidine hemisulphate with ethyl 2-formyl-3-(6-methyl-3-pyridylmethyl)propionate and sodium ethoxide in ethanol gives 2-[2-(4-dimethylaminomethyl-2-pyridyl-methylthio)ethylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone.

reactant | N-[2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethyl]guanidine hemisulphate | S(=O)(=O)(O)O.CN(C)CC1=CC(=NC=C1)CSCCNC(=N)N.CN(C)CC1=CC(=NC=C1)CSCCNC(=N)N
reactant | ethyl 2-formyl-3-(6-methyl-3-pyridylmethyl)propionate | C(=O)C(C(=O)OCC)CCC=1C=NC(=CC1)C | C13H17NO3
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-(4-dimethylaminomethyl-2-pyridyl-methylthio)ethylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone | CN(C)CC1=CC(=NC=C1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C22H28N6OS
